US05364866
A mixture of 4-hydroxy-3-methylacetophenone (14.5 g, 96 moles), K2CO3 (17.5 g, 144 mmoles), and 1,3-dibromopropane (30 g, 144 mmoles) in acetonitrile (400 ml) was heated at reflux for 6 hours. At the end of the reaction, the solvent was removed on a rotary evaporator, and the crude solid was extracted into dichloromethane (750 ml). The insoluble inorganics were filtered off. The dichloromethane solution was concentrated again to a crude oil (34.5 g). Purification was effected by flash chromatography over a silica gel column (SiO2, 150 g; eluted with 7:3 hexane:dichloromethane, 2 l; and dichloromethane 2 l). The material thus purified weighed 14.6 g (56%) and was recrystallized from ethanol. Recrystallization again from ethanol gave analytically pure 1-[4-(3-bromopropoxy)-3-methylphenyl]ethanone, m.p.=59°-61° C.

reactant | 4-hydroxy-3-methylacetophenone | 96 moles, 14.5 g | CC1=C(C=CC(=C1)C(=O)C)O | C9H10O2
reactant | K2CO3 | 144 mmoles, 17.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 144 mmoles, 30 g | BrCCCBr | C3H6Br2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-[4-(3-bromopropoxy)-3-methylphenyl]ethanone | BrCCCOC1=C(C=C(C=C1)C(C)=O)C | C12H15BrO2
